US07189733B2
Step A: Preparation of 4-(2,3-Dihydro-pyrrolo [3,2-c]pyridin-1-yl)-3-fluoro-quinoline
3-Fluoro-4-iodo-quinoline (0.2 g, 0.73 mmol) was placed in a 25 ml round bottomed flask and to it was added tetrahydrofuran (15 ml), xantphos (0.015 g, 0.02 mmol), cesium carbonate (0.476 g, 1.4 mmol), 5-azaindoline (0.087 g, 0.73 mmol). The mixture was degassed for 5 mins. Tris(dibenzylidineacetone) dipalladium(0) (0.0025 g, 0.0025 mmol) was added and the mixture was heated to 80° C. for 48 hrs. Water was and compound extracted into ethyl acetate, dried over sodium sulfate and concentrated in rotary evaporator to yield desired compound (0.132 g, 67%). MS (ES) 266.1 (M+H)+

reactant | 3-Fluoro-4-iodo-quinoline | 0.73 mmol, 0.2 g | FC=1C=NC2=CC=CC=C2C1I | C9H5FIN
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | cesium carbonate | 1.4 mmol, 0.476 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-azaindoline | 0.73 mmol, 0.087 g | N1CCC2=CN=CC=C12 | C7H8N2
catalyst | xantphos | 0.02 mmol, 0.015 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | Water | O | H2O
product | 4-(2,3-Dihydro-pyrrolo [3,2-c]pyridin-1-yl)-3-fluoro-quinoline | 0.132 g, 67% | N1(CCC=2C=NC=CC21)C2=C(C=NC1=CC=CC=C21)F | C16H12FN3
